US08349833B2
A mixture of tert-butyl 1H-pyrrolo[3,2-c]pyridine-1-carboxylate (0.81 g, 3.73 mmol), 7-bromo-7-(2-chlorophenyl)-2,2-dimethyloctanoic acid ethyl ester (1.40 g, 3.73 mmol) in acetonitrile (25 mL) was stirred and warmed to 45° C. After 52 hours, the reaction was completed. The solvent was evaporated under reduced pressure, the residue was washed with diethyl ether (3×20 mL) to afford 1-tert-butoxycarbonyl-5-[1-(2-chlorophenyl)-6-methylheptyl]-1H-pyrrolo[3,2-c]pyridin-5-ium bromide (1.47 g, 66.5% yield) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CD3OD/TMS) δ (ppm): 10.54 (s, 1H), 8.84 (d, 1H, J=6.9 Hz), 8.23 (d, 1H, J=7.8 Hz), 7.72 (s, 1H), 7.53 (t, 1H, J=4.2 Hz), 7.45 (t, 1H, J=7.2 Hz), 7.39 (d, 1H, J=3.6 Hz), 7.31 (s, 1H), 6.96 (s, 1H), 6.47 (t, 1H, J=7.2 Hz), 4.10 (q, 2H, J=5.7 Hz), 2.72 (d, 2H, J=6.6 Hz), 2.40 (m, 1H), 1.69 (s, 9H), 1.50-1.32 (m, 4H), 1.21 (t, 3H, J=3.3 Hz), 1.12 (s, 6H). (crude mixture. HRMS (DIP-CI): failed, decomposed on analysis.

reactant | tert-butyl 1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 3.73 mmol, 0.81 g | N1(C=CC=2C=NC=CC21)C(=O)OC(C)(C)C | C12H14N2O2
reactant | 7-bromo-7-(2-chlorophenyl)-2,2-dimethyloctanoic acid ethyl ester | 3.73 mmol, 1.40 g | C(C)OC(C(CCCCC(C)(C1=C(C=CC=C1)Cl)Br)(C)C)=O | C18H26BrClO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-tert-butoxycarbonyl-5-[1-(2-chlorophenyl)-6-methylheptyl]-1H-pyrrolo[3,2-c]pyridin-5-ium bromide | 1.47 g, 66.5% yield | [Br-].C(C)(C)(C)OC(=O)N1C=CC=2C=[N+](C=CC21)C(CCCCC(C)C)C2=C(C=CC=C2)Cl | InChI=1S/C26H34ClN2O2.BrH/c1-19(2)10-6-9-13-24(21-11-7-8-12-22(21)27)28-16-15-23-20(18-28)14-17-29(23)25(30)31-26(3,4)5;/h7-8,11-12,14-19,24H,6,9-10,13H2,1-5H3;1H/q+1;/p-1
